US08008298B2
A suspension of 2-bromo-5H-pyrrolo[2,3-b]pyrazine (104 mg, 0.53 mmol) in anhydrous dichloromethane (3 ml) was cooled to 0° C. under N2. Diethyl aluminum chloride (1M in hexanes, 1.57 ml, 1.57 mmol) was added quickly, and the reaction mixture was stirred for 30 minutes. 1-Methyl-cyclohexanecarbonyl chloride (844 mg, 5.3 mmol) was added dropwise, and the reaction mixture was refluxed overnight. The reaction mixture was cooled to 0° C. and quenched with saturated aqueous NaHCO3. The biphasic solution was concentrated, and the remaining aqueous solution was extracted with ethyl acetate (3×). The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a greenish oil. The residue was purified by silica gel chromatography using 20-50% EtOAc in hexanes as eluant to provide 144 mg (85%) of (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone as a light yellow solid. MP 198-199° C., M+H=322.

reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | 0.53 mmol, 104 mg | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | Diethyl aluminum chloride | 1.57 mmol, 1M, 1.57 ml | [Cl-].C(C)[Al+]CC
reactant | 1-Methyl-cyclohexanecarbonyl chloride | 5.3 mmol, 844 mg | CC1(CCCCC1)C(=O)Cl | C8H13ClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | 144 mg, 85% | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
